US08258130B2
Et3N (13.15 mmol) is added to a stirred solution of 2-phenyl-pyrimidine-5-carboxylic acid chloride (5.26 mmol) and hydrazine-acetic acid ethyl ester hydrochloride (5 mmol) in DCM (30 mL) at rt, and the mixture is stirred at rt for 5 h. The mixture is quenched with water and extracted with EtOAc (60 mL). The organic layer is washed with water (20 mL) and brine (15 mL), dried, filtered and concentrated in vacuo. The residue is purified by silical gel chromatography eluting with 5-50% EtOAc in heptane to afford [N′-(2-phenyl-pyrimidine-5-carbonyl)-hydrazino]-acetic acid ethyl ester (256 mg, 16%) as a solid. MS: 301 (M+H); 1H NMR (300 MHz, CDCl3): δ 1.35 (s, 3H), 4.20-4.40 (m, 4H), 4.56 (s, 2H), 7.54 (m, 3H), 8.53 (m, 2H), 9.24 (s, 2H).

reactant | Et3N | 13.15 mmol | CCN(CC)CC | C6H15N
reactant | 2-phenyl-pyrimidine-5-carboxylic acid chloride | 5.26 mmol | C1(=CC=CC=C1)C1=NC=C(C=N1)C(=O)Cl | C11H7ClN2O
reactant | hydrazine acetic acid ethyl ester hydrochloride | 5 mmol | NN.Cl.C(C)OC(C)=O
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | [N′-(2-phenyl-pyrimidine-5-carbonyl)-hydrazino]-acetic acid ethyl ester | 256 mg, 16% | C(C)OC(CNNC(=O)C=1C=NC(=NC1)C1=CC=CC=C1)=O | C15H16N4O3
